US04022833
In a manner similar to that of Example 1, condensation of 1-heptene oxide (71.8 g.) and hexamethylenediamine (32 g.) and recrystallization of the resulting product from ethanol gave N,N'-(1,6-hexylene)-bis[2-hydroxyheptylamine] (I: R= CH3 (CH2)4, R' = H, X= (CH2)6, Z= H) (16.5 g., m.p. 131.2°-134.2° C.).

reactant | 1-heptene oxide | 71.8 g | C1C(CCCCC)O1 | C7H14O
reactant | hexamethylenediamine | 32 g | NCCCCCCN | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-(1,6-hexylene)-bis[2-hydroxyheptylamine] | C(CCCCCNCC(CCCCC)O)NCC(CCCCC)O | C20H44N2O2
